US05330991
To 30 ml of a suspension containing 0.58 g of lithium aluminum hydride in THF, 20 ml of a solution containing 2.57 g of 3-(4-tert-butylphenyl)-7-isopropyl-2-methyl-1,2,3,4-tetrahydroisoquinoline-1-one in THF was added and the resulting mixture was heated to reflux for 15 hours. After the reaction, 0.58 g of water, 0.58 g of 15% aqueous sodium hydroxide solution and 1.8 g of water were sequentially added in the order mentioned while cooling the mixture in ice and the generated precipitates were removed by filtration. After drying the filtrate over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=9/1 v/v) to obtain 2.30 g of 3-(4-tert-butylphenyl)-7-isopropyl-2-methyl-l,2,3,4-tetrahydroisoquinoline.

reactant | lithium aluminum hydride | 0.58 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(4-tert-butylphenyl)-7-isopropyl-2-methyl-1,2,3,4-tetrahydroisoquinoline-1-one | 2.57 g | C(C)(C)(C)C1=CC=C(C=C1)C1N(C(C2=CC(=CC=C2C1)C(C)C)=O)C | C23H29NO
reactant | water | 0.58 g | O | H2O
reactant | sodium hydroxide | 0.58 g | [OH-].[Na+]
reactant | water | 1.8 g | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3-(4-tert-butylphenyl)-7-isopropyl-2-methyl-l,2,3,4-tetrahydroisoquinoline | 2.30 g | C(C)(C)(C)C1=CC=C(C=C1)C1N(CC2=CC(=CC=C2C1)C(C)C)C | C23H31N
